US09126980B2
Step 6: Preparation of (S)-1-(4-bromo-2-(3-(((tert-butyldimethylsilyl)oxy)methyl)-1,2,3,4-tetrahydro-isoquinoline-2-carbonyl)phenyl)-N,N-dibutyl-5-methyl-1H-pyrazole-3-carboxamide
To a solution of (S)-1-(4-bromo-2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)phenyl)-N,N-dibutyl-5-methyl-1H-pyrazole-3-carboxamide (3.0 g, 5.2 mmol) in DCM (30 mL) were added TBDMS-chloride (0.93 g, 6.2 mmol), imidazole (0.70 g, 10.3 mmol) followed by stirring at RT for 5 h. The reaction mixture was diluted with water, extracted with EtOAc (100 mL×2), twice. The combined organic layers were washed with water (100 mL), brine (50 mL), dried over sodium sulphate and concentrated invacuo. The residue was purified on silica gel (100-200 mesh) to afford the title compound as a liquid 3.0 g (83%). Rf=0.66 (50% EtOAc in hexane); 1H NMR (400 MHz, DMSO-d6): δ 8.00-7.40 (m, 3H), 7.30-6.60 (m, 4H), 6.55-6.20 (m, 1H), 5.00-4.10 (m, 2H), 4.10-2.40 (m, 6H), 2.40-2.00 (m, 6H), 1.60-0.50 (m, 23H), 0.20-−0.40 (m, 6H); LC-MS: m/z 695.3 (M+H).

reactant | (S)-1-(4-bromo-2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)phenyl)-N,N-dibutyl-5-methyl-1H-pyrazole-3-carboxamide | 5.2 mmol, 3.0 g | BrC1=CC(=C(C=C1)N1N=C(C=C1C)C(=O)N(CCCC)CCCC)C(=O)N1CC2=CC=CC=C2C[C@H]1CO | C30H37BrN4O3
reactant | TBDMS-chloride | 6.2 mmol, 0.93 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 10.3 mmol, 0.70 g | N1C=NC=C1 | C3H4N2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (S)-1-(4-bromo-2-(3-(((tert-butyldimethylsilyl)oxy)methyl)-1,2,3,4-tetrahydro-isoquinoline-2-carbonyl)phenyl)-N,N-dibutyl-5-methyl-1H-pyrazole-3-carboxamide | 3.0 g, 83% | BrC1=CC(=C(C=C1)N1N=C(C=C1C)C(=O)N(CCCC)CCCC)C(=O)N1CC2=CC=CC=C2C[C@H]1CO[Si](C)(C)C(C)(C)C | C36H51BrN4O3Si
